US08012976B2
4-(3-Oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde
To 8-(4-(dimethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (89 mg, 0.22 mmol) was added 20 ml of hydrochloric acid (3 mol/L) and the mixture was stirred at room temperature for 2 h. The resulting mixture was evaporated under reduced pressure to 10 ml and then filtered, 59 mg of solid of 4-(3-oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde was obtained; yield: 73%. LC-MS (ESI) m/z: 368 (M+1)+.

reactant | 8-(4-(dimethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 0.22 mmol, 89 mg | COC(C1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1)OC | C25H23N3O3
solvent | hydrochloric acid | 3 mol/L, 20 ml | Cl | ClH
product | 4-(3-Oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 59 mg, yield: 73% | O=C1NN=C2C=3C(=CC=CC13)NC(C2C2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C23H17N3O2
